US08604029B2
2-Isopropyl-4-nitro-benzoic acid 2-bromo-ethyl ester (0.19 g, 0.6 mmol) was dissolved in DMF (5 mL), then triethylamine (0.5 mL, 3.6 mmol) and 2-isopropylimidazole (0.2 g, 1.8 mmol) were added. The mixture was heated at reflux for 15 h then allowed to cool, diluted with water and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over sodium sulfate and concentrated. The crude product was purified by column chromatography on silica gel (60-120 mesh), eluting with ethyl acetate, to afford 2-isopropyl-4-nitro-benzoic acid 2-(2-isopropyl-imidazol-1-yl)-ethyl ester (90 mg, 43%) as an oil.

reactant | 2-Isopropyl-4-nitro-benzoic acid 2-bromo-ethyl ester | 0.6 mmol, 0.19 g | BrCCOC(C1=C(C=C(C=C1)[N+](=O)[O-])C(C)C)=O | C12H14BrNO4
reactant | triethylamine | 3.6 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | 2-isopropylimidazole | 1.8 mmol, 0.2 g | C(C)(C)C=1NC=CN1 | C6H10N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-isopropyl-4-nitro-benzoic acid 2-(2-isopropyl-imidazol-1-yl)-ethyl ester | 90 mg, 43% | C(C)(C)C=1N(C=CN1)CCOC(C1=C(C=C(C=C1)[N+](=O)[O-])C(C)C)=O | C18H23N3O4
